US07074796B2
6, 1-{4-[4-(2,3-Dichlorophenyl)piperazin-1-yl]butyl}-3,4-dihydroquinolin-2(1H)-one
The free base of 1-(2,3-dichlorophenyl)piperazine, hydrochloride (6.0 g) was liberated by the use ethyl acetate and aqueous ammonia. The remaining oil was dissolved in butanone (500 mL) followed by the addition of potassium carbonate (9.7 g), and the mixture was heated to reflux temperature. To this mixture was added a solution of 1-(4-bromobutyl)-3,4-dihydroquinolin-2(1H)-one (7.9 g) in butanone (150 mL), and the resulting mixture was boiled under reflux for 10 h. The mixture was filtered hot and purified by flash chromatography (eluent:ethyl acetate/triethylamine 100:4) giving the title compound which was precipitated as the hydrochloride salt (2.5 g). Mp 234–235° C. 1H NMR (DMSO-d6): 1.55–1.65 (m, 2H); 1.75–1.85 (m, 2H); 2.55 (t, 2H); 2.85–2.90 (m, 2H); 3.05–3.20 (m, 4H); 3.25 (t, 2H); 3.40 (d, 2H); 3.55 (d, 2H); 3.95 (t, 2H); 7.00 (t, 1H); 7.15 (d, 1H); 7.20–7.30 (m, 3H); 7.30–7.40 (m, 2H); 11.35 (b s). MS m/z: 432 (MH+).

reactant | 1-(2,3-dichlorophenyl)piperazine, hydrochloride | 6.0 g | Cl.ClC1=C(C=CC=C1Cl)N1CCNCC1
reactant | ammonia | N | H3N
reactant | potassium carbonate | 9.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(4-bromobutyl)-3,4-dihydroquinolin-2(1H)-one | 7.9 g | BrCCCCN1C(CCC2=CC=CC=C12)=O | C13H16BrNO
solvent | butanone | 500 mL | CC(CC)=O | C4H8O
solvent | butanone | 150 mL | CC(CC)=O | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-{4-[4-(2,3-Dichlorophenyl)piperazin-1-yl]butyl}-3,4-dihydroquinolin-2(1H)-one | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCN1C(CCC2=CC=CC=C12)=O | C23H27Cl2N3O
